US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.395 mg, 0.03 eq.), 3-iodonitrobenzene (3.5 g, 1.1 eq.), triethylamine (3.87 g, 3 eq.), and copper (I) iodide (0.145 g, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinolin-4-amine (3 g, 13 mmol, 1.0 eq.) in DMF. The reaction mixture was stirred at ambient temperature for 3.5 hours. A precipitate was isolated by filtration and then recrystallized from dichloromethane to provide 2.6 g of 2-ethyl-1-[3-(3-nitrophenyl)-2-propynyl]-1H-imidazo[4,5-c]quinoline as a solid.

reactant | 3-iodonitrobenzene | 3.5 g, 1.1 eq. | IC=1C=C(C=CC1)[N+](=O)[O-] | C6H4INO2
reactant | triethylamine | 3.87 g, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinolin-4-amine | 13 mmol, 3 g, 1.0 eq. | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC#C | C15H14N4
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.395 mg, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 0.145 g, 0.06 eq. | [Cu]I
product | 2-ethyl-1-[3-(3-nitrophenyl)-2-propynyl]-1H-imidazo[4,5-c]quinoline | 2.6 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC#CC1=CC(=CC=C1)[N+](=O)[O-] | C21H16N4O2
